US05163995
Preparation of 2-Benzylthio-7-fluoro-5-methoxy-1,2,4-triazolo[1,5-c]pyrimidine
A 25 percent solution of sodium methoxide in methanol (1.9 ml, 0.0085 mol) was added to a solution of 19.9 g (0.065 mol) of 3-benzylthio-7-fluoro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine containing a small amount of 2-benzylthio-7-fluoro-5-methylthio-1,2,4-triazolo[1,5-c]pyrimidine and 11.2 g (0.065 mol) of diethyl maleate in 250 ml of ethanol at ambient temperature with stirring and allowed to react for about 1 hour. Acetic acid (4 ml) was then added and the volatiles were removed by evaporation under reduced pressure. The residue was dissolved in methylene chloride and the resulting solution was extracted with water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue was triturated with hexane, filtered, and dried to obtain 10.7 g of the title compound as a white powder melting at 121°-122° C. The nmr and uv spectra were consistent with the assigned structure.

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.0085 mol, 1.9 ml | CO | CH4O
reactant | 3-benzylthio-7-fluoro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine | 0.065 mol, 19.9 g | C(C1=CC=CC=C1)SC1=NN=C2N1C(=NC(=C2)F)SC | C13H11FN4S2
reactant | 2-benzylthio-7-fluoro-5-methylthio-1,2,4-triazolo[1,5-c]pyrimidine | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=N1)F)SC | C13H11FN4S2
reactant | diethyl maleate | 0.065 mol, 11.2 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 2-Benzylthio-7-fluoro-5-methoxy-1,2,4-triazolo[1,5-c]pyrimidine | 10.7 g | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=N1)F)OC | C13H11FN4OS
